US09062024B2
Synthesis of 2,3-Dihydro-1-isopropyl-5-(3-quinolinyl)-1H-1,4-benzodiazepine (compound no. B1-37)
2,3-Dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine (0.12 g, 0.44 mmol) was dissolved in 5 mL of dimethyl formamide, and added with isopropyl iodide (0.11 g, 0.65 mmol) and potassium carbonate (0.10 g, 0.72 mmol), followed by stirring at 100° C. for 48 hours. Isopropyl iodide (0.22 g, 1.29 mmol) and potassium carbonate (0.20 g, 1.45 mmol) were added to the resulting reaction solution, followed by stirring at 100° C. for 14 hours. The resulting reaction solution was cooled to room temperature, and cold water was poured into the reaction solution, followed by extracting with ethyl acetate. The organic layer was washed with brine, followed by drying magnesium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:ethyl acetate=7:3) to obtain the target compound (0.012 g, yield: 8.7%).

reactant | 2,3-Dihydro-5-(3-quinolinyl)-1H-1,4-benzodiazepine | 0.44 mmol, 0.12 g | N1=CC(=CC2=CC=CC=C12)C1=NCCNC2=C1C=CC=C2 | C18H15N3
reactant | isopropyl iodide | 0.65 mmol, 0.11 g | C(C)(C)I | C3H7I
reactant | potassium carbonate | 0.72 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | Isopropyl iodide | 1.29 mmol, 0.22 g | C(C)(C)I | C3H7I
reactant | potassium carbonate | 1.45 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-1-isopropyl-5-(3-quinolinyl)-1H-1,4-benzodiazepine | 0.012 g, yield: 8.7% | C(C)(C)N1CCN=C(C2=C1C=CC=C2)C=2C=NC1=CC=CC=C1C2 | C21H21N3
